US08431597B2
N-((2R,4R)-2-(1H-benzo[d]imidazol-2-yl)-1-cyclopropylpiperidin-4-yl)-2,3-dihydrobenzo[b][1,4]dioxine-6-carboxamide
Acetic acid (0.075 mL, 1.3 mmol) was added to a solution of N-((2R,4R)-2-(1H-benzo[d]imidazol-2-yl)piperidin-4-yl)-2,3-dihydrobenzo[b][1,4]dioxine-6-carboxamide (50 mg, 0.13 mmol) in methanol (2 mL) and the then (1-ethoxycyclopropoxy)trimethylsilane (138 mg, 1.79 mmol) was added to the reaction solution and reaction mixture was stirred at room temperature for 10 min, then sodium cyanoborohydride (37 mg, 0.59 mmol) was added carefully. The reaction mixture was stirred at 50° C. 24 hours. Saturated sodium bicarbonate solution (10 mL) and ethyl acetate (30 mL) were added. The organic layer was separated, dried over MgSO4, and concentrated. Product was purified by Companion (ReadySep, 12 g, silica gel packed) with CH3OH/CH2Cl2 from 1%-5% to give the named compound as a white solid 46 mg (85%). LC-MS: 419.2, 417.3 (t=1.7 min).

reactant | Acetic acid | 1.3 mmol, 0.075 mL | C(C)(=O)O | C2H4O2
reactant | N-((2R,4R)-2-(1H-benzo[d]imidazol-2-yl)piperidin-4-yl)-2,3-dihydrobenzo[b][1,4]dioxine-6-carboxamide | 0.13 mmol, 50 mg | N1C(=NC2=C1C=CC=C2)[C@@H]2NCC[C@H](C2)NC(=O)C2=CC1=C(OCCO1)C=C2 | C21H22N4O3
reactant | (1-ethoxycyclopropoxy)trimethylsilane | 1.79 mmol, 138 mg | C(C)OC1(CC1)O[Si](C)(C)C | C8H18O2Si
reactant | sodium cyanoborohydride | 0.59 mmol, 37 mg | C(#N)[BH3-].[Na+]
reactant | sodium bicarbonate | 10 mL | C([O-])(O)=O.[Na+]
solvent | methanol | 2 mL | CO | CH4O
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | N-((2R,4R)-2-(1H-benzo[d]imidazol-2-yl)-1-cyclopropylpiperidin-4-yl)-2,3-dihydrobenzo[b][1,4]dioxine-6-carboxamide | 46 mg, 85% | N1C(=NC2=C1C=CC=C2)[C@@H]2N(CC[C@H](C2)NC(=O)C2=CC1=C(OCCO1)C=C2)C2CC2 | C24H26N4O3
